US06812228B2
A solution of 2-(3-methoxy-phenyl)-ethylamine (50.0 g, 0.33 mol) in formic acid (60 mL) was refluxed overnight. Water (250 mL) was added and the emulsion extracted with ethyl acetate (2×150 mL). The organic layer was separated, dried (Na2SO4) and concentrated to give N-[2-(3-methoxy-phenyl)-ethyl]-formamide (43.1 g, 73%). MS: 180.1 (M+1+).

reactant | 2-(3-methoxy-phenyl)-ethylamine | 0.33 mol, 50.0 g | COC=1C=C(C=CC1)CCN | C9H13NO
reactant | Water | 250 mL | O | H2O
reactant | formic acid | 60 mL | C(=O)O | CH2O2
product | N-[2-(3-methoxy-phenyl)-ethyl]-formamide | 43.1 g, 73% | COC=1C=C(C=CC1)CCNC=O | C10H13NO2
